* Motors
*-------------------------------------------------------------------
.SUBCKT MOTOR_SIMPLE  coilp coilm  
+ VNOM=5 RCOIL=50 RON=0.1 ROFF=1G
+ TON=5m VON=0.7 VOFF=0.3 
+ LCOIL=0.1 CCOIL=1f 
+ COFF=1f CCOUP=1f Lser=1p 
*
.PARAM INOM=VNOM/RCOIL
.PARAM VT=(VON+VOFF)/2
.PARAM VH=(VON-VOFF)/2
.PARAM C1=-0.45*0.001*TON/log(1-VON)
.PARAM C2=C1
*
LCoil coilp 1 {LCOIL}
RCoil 1 2 {RCOIL}
VCoil 2 coilm 0
CCoil coilp coilm {CCOIL}
.ENDS
