* RT_SZ.sub
*

.subckt GAIN 1 2
R1 0 1 1MEG
E1 0 2 1 0 {gain}
.end GAIN

.subckt PT1 1 2
R1 0 1 1MEG
E1 0 N001 1 0 {KPS}
R2 N001 N002 {T1}
C1 N002 0 1
E2 0 2 N002 0 1
.end PT1
