* RT_SZ.sub
*

.subckt P 1 2
R1 0 1 1MEG
E1 0 2 0 1 {KP}
.end P

.subckt PT1 1 2
R1 0 1 1MEG
E1 0 N001 1 0 {KP}
R2 N001 N002 {T1}
C1 N002 0 1
E2 0 2 N002 0 1
.end PT1
